US09060517B2
4.9 g of 8-fluoro-3-hydroxy-2-methylquinoline, 3.2 g of 3-chloro-2-cyanopyridine and 3.8 g of potassium carbonate were dissolved in 20 ml of N-methylpyrrolidone followed by stirring for 3 hours at 130° C. Subsequently, the reaction solution was cooled to room temperature followed by addition of water and extraction with ethyl acetate. The extract was washed with saturated saline and dried with magnesium sulfate followed by distilling off the solvent under reduced pressure. The resulting residue was purified by silica gel column chromatography to obtain 5.37 g of 3-(2-cyano-pyridin-3-yloxy)-8-fluoro-2-methylquinoline.

reactant | 8-fluoro-3-hydroxy-2-methylquinoline | 4.9 g | FC=1C=CC=C2C=C(C(=NC12)C)O | C10H8FNO
reactant | 3-chloro-2-cyanopyridine | 3.2 g | ClC=1C(=NC=CC1)C#N | C6H3ClN2
reactant | potassium carbonate | 3.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | N-methylpyrrolidone | 20 ml | CN1C(CCC1)=O | C5H9NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(2-cyano-pyridin-3-yloxy)-8-fluoro-2-methylquinoline | 5.37 g | C(#N)C1=NC=CC=C1OC=1C(=NC2=C(C=CC=C2C1)F)C | C16H10FN3O
